US04429155
A mixture of 550 g of 2,3,6-trimethylphenol and 510 g of ammonia and 50 g of catalyst which contains 5.0% by weight of palladium, 1.0% by weight of manganese and 5.0% by weight of silver on aluminum oxide in powder form is hydrogenated at 220° C. and under a hydrogen pressure of 200 bar in a 3 l rolling autoclave. The mixture is cooled and filtered and the filtrate is distilled. 546 g of 2,3,6-trimethylcyclohexylamine, boiling point=78°-81° C./22 mbar, are obtained, corresponding to a yield of 96%.

reactant | 2,3,6-trimethylphenol | 550 g | CC1=C(C(=CC=C1C)C)O | C9H12O
reactant | ammonia | 510 g | N | H3N
catalyst | palladium | [Pd] | Pd
catalyst | manganese | [Mn] | Mn
catalyst | silver | [Ag] | Ag
product | 2,3,6-trimethylcyclohexylamine | 546 g, yield of 96% | CC1C(C(CCC1C)C)N | C9H19N
